US05519024
1-(2-Hydroxyethyl)-6,8-difluoro-7-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (compound No. 10)
Using 1-(2-hydroxyethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine, the same procedure as in Production Example 1 was followed to yield the title compound.

reactant | 1-(2-hydroxyethyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | OCCN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO4
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | N=1C=CN2C1CNCC2 | C6H9N3
product | 1-(2-Hydroxyethyl)-6,8-difluoro-7-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | OCCN1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2N(CC1)C=CN2)F)=O)C(=O)O | C18H16F2N4O4
